US06271238B1
(4) (5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)acetaldehyde
An aqueous solution (11.2 ml) of sodium periodate (897 mg, 4.19 mmol) was added to a solution of 3-(5-acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)-1,2-propanediol (1.06 g, 3.50 mmol) in tetrahydrofuran (100 ml), and the mixture was stirred overnight at room temperature. The reaction solution was concentrated as such, and after water was added, the product was extracted 3 times with ethyl acetate, and it was washed with saturated saline. After dried over anhydrous sodium sulfate, the organic layer was concentrated under reduced pressure whereby the title compound (800 mg, 84%) was obtained as white solid.

reactant | sodium periodate | 4.19 mmol, 11.2 ml, 897 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 3-(5-acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)-1,2-propanediol | 3.50 mmol, 1.06 g | C(C)(=O)NC1=CN=C(N(C1=O)CC(CO)O)C1=CC=CC=C1 | C15H17N3O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)acetaldehyde | C(C)(=O)NC1=CN=C(N(C1=O)CC=O)C1=CC=CC=C1 | C14H13N3O3
